US07335671B2
Ethyl (1R,3S)-1-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]-cyclopropanecarboxylate
At room temperature, 12 mg of a 60 percent strength sodium hydride suspension are added to a suspension of 55 mg of trimethylsulfonium iodide in 2 ml of DMSO, and the mixture is stirred at room temperature for 20 min. At 10° C. 100 mg of ethyl (1R,3S)-2-[3-(5-methyl-2-m-tolyloxazol4-ylmethoxy)cyclohexyloxymethyl]acrylate, dissolved in 2 ml of DMSO, are then added, and the mixture is stirred at room temperature for 90 min. The mixture is poured into ice-water and extracted with methyl tert-butyl ether. The organic phase is dried over sodium sulfate, the solvent is removed under reduced pressure and the residue is purified by flash chromatography on silica gel (n-heptane/ethyl acetate=2:1). This gives ethyl (1R,3S)-1-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]cyclo-propanecarboxylate as a colorless oil. C25H33NO5 (427.55), MS (ESI): 428 (M+H+).

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylsulfonium iodide | 55 mg | [I-].C[S+](C)C
reactant | ethyl (1R,3S)-2-[3-(5-methyl-2-m-tolyloxazol4-ylmethoxy)cyclohexyloxymethyl]acrylate | 100 mg | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCC(C(=O)OCC)=C | C24H31NO5
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | Ethyl (1R,3S)-1-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]-cyclopropanecarboxylate | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCC1(CC1)C(=O)OCC | C25H33NO5
